US09359362B2
N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidin-2-yl}-2,2-difluoro-1-methylcyclopropanecarboxamide
Under an atmosphere of argon protective gas, (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (30 mg, 66 μmol) was dissolved in abs. pyridine (1.5 ml). At room temperature, a solution of 2,2-difluoro-1-methylcyclopropanecarbonyl chloride (25 mg, 165 μmol, 2.5 eq.) in abs. THF (1 ml) was added in two portions. Once analysis of the reaction by HPLC showed substantial conversion (3 h), the reaction mixture was concentrated under reduced pressure and directly purified by preparative HPLC (Kromasil C18 column, 5 μm, 50×20 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (26.8 mg, 76% of theory).

reactant | (7R)-2-amino-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 66 μmol, 30 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=CC=C(C=C2)C#N)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2-difluoro-1-methylcyclopropanecarbonyl chloride | 165 μmol, 25 mg, 2.5 eq. | FC1(C(C1)(C(=O)Cl)C)F | C5H5ClF2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N-{(7R)-6-Cyano-7-(4-cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]-triazolo[1,5-a]pyrimidin-2-yl}-2,2-difluoro-1-methylcyclopropanecarboxamide | C(#N)C1=C(N(C=2N([C@@H]1C1=CC=C(C=C1)C#N)N=C(N2)NC(=O)C2(C(C2)(F)F)C)C2=CC(=CC=C2)C(F)(F)F)C | C26H18F5N7O
